US04324796
(d) 5-(4-Chlorophenyl)-2-methylenevaleric acid
25 g of 5-(4-chlorophenyl)-2-methylenevaleric acid ethyl ester, 100 ml of a 2 N sodium hydroxide solution and 50 ml of ethanol are stirred at 50° for 3 hours. After cooling, 100 ml of 2 N hydrochloric acid are added slowly, while cooling with ice, to the reaction mixture which is then extracted 4 times, with 50 ml of diethyl ether each time. The united organic phases are washed with water, dried over sodium sulfate and concentrated. 20.5 g of 5-(4-chlorophenyl)-2-methylenevaleric acid remain as a brown oil.

reactant | 5-(4-chlorophenyl)-2-methylenevaleric acid ethyl ester | 25 g | C(C)OC(C(CCCC1=CC=C(C=C1)Cl)=C)=O | C14H17ClO2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | hydrochloric acid | 2 N, 100 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(4-Chlorophenyl)-2-methylenevaleric acid | ClC1=CC=C(C=C1)CCCC(C(=O)O)=C | C12H13ClO2
